US04822813
A mixture of the 3,5-dichloro-2-pentanone (39 g., 0.24 mole) and 2-mercaptoethanol (20 g., 0.26 mole) in toluene (250 ml) was stirred, and triethylamine (27 g., 0.27 mole) added dropwise thereto. After stirring overnight at ambient temperature, the mixture was washed with dilute hydrochloric acid and subsequently refluxed with p-toluenesulfonic acid (0.5 g.) with azeotropic removal of water for 4 hours. Upon cooling, the reaction mixture was washed with aqueous sodium bicarbonate, dried (magnesium sulfate), and the toluene removed to leave the product 3-(2-chloroethyl)-5,6-dihydro-1,4-oxathiin (bp. 62°-70°/0.025 mm) in 60% yield and 98% purity (G.C.). N.M.R. spectrum (Deuterchloroform) gave lambda values: 1.85 (3H,S) 2.3-2.65 (2H,t); 2.9-3.5 (2H,t); 3.95-3.7 (2H,t); 4.1-4.25 (2H,t).

reactant | 3,5-dichloro-2-pentanone | 0.24 mole, 39 g | ClC(C(C)=O)CCCl | C5H8Cl2O
reactant | 2-mercaptoethanol | 0.26 mole, 20 g | SCCO | C2H6OS
reactant | triethylamine | 0.27 mole, 27 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloroethyl)-5,6-dihydro-1,4-oxathiin | 60% yield | ClCCC1=COCCS1 | C6H9ClOS
